US07087601B2
2-[4-(5-chloropyridin-2-yl)-3-methoxyphenyl]-1,3-benzoxazole (100 mg, 0.30 mmol), benzophenone imine (60 μL, 0.36 mmol), Pd2(dba)3 (15 mg, 0.015 mmol), 1,1′-biphenyl-2-yl(dicyclohexyl)phosphine (10 mg, 0.015 mmol), NaOtBu (40 mg, 0.42 mmol) were combined in a sealable tube evacuated and backfilled with argon. Toluene (600 μL) was added and the mixture was degassed with a stream of argon for 5 min. The tube was sealed and the mixture was heated to 80° C. for 24 h. Crude mixture was adsorbed onto silica gel and purified by automated flash chromatography using an EtOAc/hexanes gradient to afford 6-[4-(1,3-benzoxazol-2-yl)-2-methoxyphenyl]-N-(diphenylmethylene)pyridin-3-amine as a yellow solid.

reactant | 2-[4-(5-chloropyridin-2-yl)-3-methoxyphenyl]-1,3-benzoxazole | 0.30 mmol, 100 mg | ClC=1C=CC(=NC1)C1=C(C=C(C=C1)C=1OC2=C(N1)C=CC=C2)OC | C19H13ClN2O2
reactant | benzophenone imine | 0.36 mmol, 60 μL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | 1,1′-biphenyl-2-yl(dicyclohexyl)phosphine | 0.015 mmol, 10 mg | C1(=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1=CC=CC=C1 | C24H31P
reactant | NaOtBu | 0.42 mmol, 40 mg | CC(C)(C)[O-].[Na+]
catalyst | Pd2(dba)3 | 0.015 mmol, 15 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-[4-(1,3-benzoxazol-2-yl)-2-methoxyphenyl]-N-(diphenylmethylene)pyridin-3-amine | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)C2=CC=C(C=N2)N=C(C2=CC=CC=C2)C2=CC=CC=C2)OC | C32H23N3O2
